US04816452
a. Ethyl (Z)-2-(cycloheptyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate (5.Og) was treated with cycloheptyl bromide as described in Example 13a to give the title compound as a colourless liquid (6.36 g, 80%). (Found: M+ +H, 256.1547, C13H21NO4 requires M+H 256.1550), νmax (film) 2940, 1750, 1690 cm-1 ; δH (CDCl3): 1.31 (3H, t) 1.4-2.0 (12H, m), 2.35 (3H, s) 4.32 (3H, q+m).

reactant | Ethyl (Z)-2-(hydroxyimino)-3-oxobutyrate | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | cycloheptyl bromide | C1(CCCCCC1)Br | C7H13Br
product | Ethyl (Z)-2-(cycloheptyloxyimino)-3-oxobutyrate | 6.36 g, 80% | C1(CCCCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C13H21NO4
